US07678794B2
Synthesis of 3-{3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-ureido}-benzoic acid ethyl ester
To 1-[4-(4-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone (980 mg, 30% pure by LC-MS) in anhydrous CH2Cl2 (4 mL) is added ethyl 3-isocyanatobenzoate (0.18 mL) at room temperature under Ar gas. The reaction mixture is stirred at room temperature overnight. The resulting white precipitate is filtered to give the title compound (215 mg). LC-MS (m/e): 491 (M+1).

reactant | 1-[4-(4-amino-benzyloxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 980 mg | NC1=CC=C(COC2=C(C(=C(C=C2)C(C)=O)O)CCC)C=C1 | C18H21NO3
reactant | ethyl 3-isocyanatobenzoate | 0.18 mL | N(=C=O)C=1C=C(C(=O)OCC)C=CC1 | C10H9NO3
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | 3-{3-[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-ureido}-benzoic acid ethyl ester | 215 mg | C(C)OC(C1=CC(=CC=C1)NC(=O)NC1=CC=C(C=C1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C28H30N2O6
